US04399148
To a 500 milliliter round bottom flask equipped with a water condenser, magnetic stirrer and drying tube was added 13.72 grams (0.10 mole) of 4-amino-3,5-dimethylphenol, 12.21 grams (0.10 mole) of salicylaldehyde and 250 milliliters of ethyl acetate. The resulting reaction mixture was then heated to 55° C. and stirred for 19 hours at ambient pressure. After cooling the reaction mixture to room temperature, it was filtered and concentrated under reduced pressure to give a brown oil which solidified on standing. The resulting solidified material was slurried in hexane, collected by filtration and dried to yield 19.66 grams (0.082 moles) of 4-(2-hydroxybenzylideneamino)-3,5-dimethylphenol in the form of a yellow solid having a melting point of 145°-147° C.

reactant | 4-amino-3,5-dimethylphenol | 0.10 mole, 13.72 grams | NC1=C(C=C(C=C1C)O)C | C8H11NO
reactant | salicylaldehyde | 0.10 mole, 12.21 grams | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | ethyl acetate | 250 milliliters | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 4-(2-hydroxybenzylideneamino)-3,5-dimethylphenol | 0.082 moles, 19.66 grams | OC1=C(C=NC2=C(C=C(C=C2C)O)C)C=CC=C1 | C15H15NO2
